US07335673B2
Preparation of 3-[4-(2,6-dichlorobenzoyl amino)phenyl]-2-{3-[(2,2-dimethylpropionyl)isobutyl amino]phenyl}propionic acid
Thus obtained 3-[4-(2,6-dichlorobenzoyl amino) phenyl]-2-{3-[(2,2-dimethylpropionyl)isobutylamino]phenyl}propionic acid ethyl ester (1.7 g, 2.8 mmol) was dissolved in a mixed solvent of methanol (15 mL) and tetrahydrofuran (15 mL), and added with a 2 mol/L aqueous sodium hydroxide solution (15 mL, 30 mmol). The solvent was evaporated under reduced pressure, and the resultant residue was added with water to solubilize, and washed with diethyl ether. The separated aqueous phase was added with a 1 mol/L hydrochloric acid solution so as to adjust pH of the solution to as low as below 4. The solution was extracted with ethyl acetate, dried over anhydrous sodium sulfate, and evaporated under reduced pressure so as to remove the solvent, to thereby obtain 3-[4-(2,6-dichlorobenzoylamino)phenyl]-2-{3-[(2,2-dimethylpropionyl)isobutylamino]phenyl}propionic acid (yield: 1.6 g, yield ratio: 99%) as a light-yellow solid.

reactant | 3-[4-(2,6-dichlorobenzoyl amino) phenyl]-2-{3-[(2,2-dimethylpropionyl)isobutylamino]phenyl}propionic acid ethyl ester | 2.8 mmol, 1.7 g | C(C)OC(C(CC1=CC=C(C=C1)NC(C1=C(C=CC=C1Cl)Cl)=O)C1=CC(=CC=C1)N(CC(C)C)C(C(C)(C)C)=O)=O | C33H38Cl2N2O4
reactant | sodium hydroxide | 30 mmol, 2 mol/L, 15 mL | [OH-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 3-[4-(2,6-dichlorobenzoyl amino)phenyl]-2-{3-[(2,2-dimethylpropionyl)isobutyl amino]phenyl}propionic acid | ClC1=C(C(=O)NC2=CC=C(C=C2)CC(C(=O)O)C2=CC(=CC=C2)N(CC(C)C)C(C(C)(C)C)=O)C(=CC=C1)Cl | C31H34Cl2N2O4
